US08222248B2
To 4-{(E)-2-[4-(2-tert-butoxycarbonylethyl)-2,6-dichlorophenyl]-vinyl}-3-nitrobenzoic acid potassium salt (280 mg, 0.56 mmol) in DCM (6 mL) was added diisopropylethylamine (292 μL, 1.68 mmol) and HATU (320 mg, 0.84 mmol) and the solution was stirred for 30 min. To this was added 2-aminoquinoline (96 mg, 0.66 mmol) and the mixture was stirred 18 h. The reaction mixture was partitioned between ethyl acetate and water, the organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The crude residue was purified by flash chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate/heptane to obtain 3-(3,5-dichloro-4-{(E)-2-[2-nitro-4-(quinolin-2-ylcarbamoyl)-phenyl]-vinyl}-phenyl)-propionic acid tert-butyl ester as a white solid. MS (m/z) 592.1 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 11.58 (s, 1H), 8.74 (d, J=1.89 Hz, 1H), 8.43-8.48 (m, 2H), 8.36-8.41 (m, 1H), 8.16 (d, J=8.34 Hz, 1H), 7.99 (d, J=7.33 Hz, 1H), 7.91 (d, J=8.21 Hz, 1H), 7.77 (ddd, J=8.40, 6.95, 1.33 Hz, 1H), 7.56 (dd, J=15.03, 1.14 Hz, 1H), 7.49 (s, 2H), 7.48 (d, J=16.82 Hz, 1H), 7.36 (d, J=16.82 Hz, 1H), 2.85 (t, J=7.26 Hz, 2H), 2.59 (t, J=7.39 Hz, 2H) 1.38 (s, 9H).

reactant | 4-{(E)-2-[4-(2-tert-butoxycarbonylethyl)-2,6-dichlorophenyl]-vinyl}-3-nitrobenzoic acid potassium salt | 0.56 mmol, 280 mg | [K+].C(C)(C)(C)OC(=O)CCC1=CC(=C(C(=C1)Cl)/C=C/C1=C(C=C(C(=O)[O-])C=C1)[N+](=O)[O-])Cl
reactant | diisopropylethylamine | 1.68 mmol, 292 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.84 mmol, 320 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminoquinoline | 0.66 mmol, 96 mg | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-(3,5-dichloro-4-{(E)-2-[2-nitro-4-(quinolin-2-ylcarbamoyl)-phenyl]-vinyl}-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC(=C(C(=C1)Cl)\C=C\C1=C(C=C(C=C1)C(NC1=NC2=CC=CC=C2C=C1)=O)[N+](=O)[O-])Cl)=O | C31H27Cl2N3O5
